US07402680B2
2-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester. A solution of 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester (2.97 g) in TMEDA (2.2 mL) was cooled to −78° C. and sec-BuLi (1.8 M in THF, 13 mL) was added dropwise. The resulting yellow solution was aged at −78° C. for 1 h. Methyl iodide (1.5 mL) was added and the mixture was warmed from −78° C. to RT over 16 h. The reaction mixture was poured into water (800 mL) and extracted with EtOAc. The combined organic extracts were washed with H2O, brine, and dried over Na2SO4. Purification on SiO2 (330 g, 5 to 20% EtOAc/hexanes) provided 1.65 g of 7-methyl-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester. Multiple aliquots of this ester were combined (2.29 g), treated with 5 mL of conc. HCl in 10 mL of dioxane, and heated at 65° C. for 6 h. The solvent was removed and the residue was dissolved in CH2Cl2 and treated with di-tert-butyldicarbonate (1.0 g). After 5 d, the mixture was diluted with satd. aq. NaHCO3 and H2O, and extracted with CH2Cl2. Purification on SiO2 (120 g, 5 to 15% EtOAc/hexanes) provided 1.40 g of the desired product as a white solid. 1H NMR (500 MHz, CDCl3): 4.69-4.59 (m, 1H), 4.21-4.12 (m, 1H), 3.30-3.20 (m, 1H), 2.66-2.57 (m, 1H), 2.47-2.36 (m, 1H), 2.32-2.23 (m, 1H), 2.22-2.15 (m, 1H), 1.42 (s, 9H), 1.11 (d, J=7.1 Hz, 3H).

reactant | 2-Methyl-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(CC1)=O)C | C11H19NO3
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 2.97 g | C(C)(C)(C)OC(=O)N1CCC2(OCCO2)CC1 | C12H21NO4
reactant | sec-BuLi | 1.8 M, 13 mL | [Li]C(C)CC
reactant | Methyl iodide | 1.5 mL | CI | CH3I
solvent | TMEDA | 2.2 mL | CN(C)CCN(C)C | C6H16N2
solvent | water | 800 mL | O | H2O
product | 7-methyl-1,4-dioxa-8-aza-spiro[4.5]decane-8-carboxylic acid tert-butyl ester | 1.65 g | C(C)(C)(C)OC(=O)N1C(CC2(OCCO2)CC1)C | C13H23NO4
